US05045558
4-[1-(1-Imidazolyl)-butyl]-benzoic acid, hydrochloride
1.0 g of 4-[1-(1-imidazolyl)-butyl]-benzoic acid is dissolved in 20 ml of ethanol and mixed with 10 ml of concentrated hydrochloric acid. The reaction mixture is precipitated into 100 ml of water and the precipitate is suctioned off. After recrystallization from ethanol, 0.95 g of 4-[1-(1-imidazolyl)-butyl]-benzoic acid, hydrochloride with a melting point of 38° C. is obtained.

reactant | 4-[1-(1-imidazolyl)-butyl]-benzoic acid | 1.0 g | N1(C=NC=C1)C(CCC)C1=CC=C(C(=O)O)C=C1 | C14H16N2O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-[1-(1-Imidazolyl)-butyl]-benzoic acid, hydrochloride | Cl.N1(C=NC=C1)C(CCC)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C14H16N2O2.ClH/c1-2-3-13(16-9-8-15-10-16)11-4-6-12(7-5-11)14(17)18;/h4-10,13H,2-3H2,1H3,(H,17,18);1H
